US04335127
A mixture of 7 parts of 2-amino-N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]benzamide, 12 parts of formic acid and 135 parts of methylbenzene is stirred and refluxed for 1 hour. Stirring at reflux is continued for 1 hour using a water-separator. The solvent is evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the (E)-2-butenedioate salt in 2-propanol. The salt is filtered off and dried, yielding 5 parts (54%) of 3-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-4(3H)-quinazolinone (E)-2-butenedioate (1:1); mp. 201.1° C.

reactant | 2-amino-N-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]benzamide | NC1=C(C(=O)NCCCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC=C1 | C22H26FN3O2
reactant | formic acid | C(=O)O | CH2O2
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
reactant | water | O | H2O
product | 3-[3-[4-(4-fluorobenzoyl)-1-piperidinyl]propyl]-4(3H)-quinazolinone (E)-2-butenedioate | 54% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C=NC3=CC=CC=C3C2=O)C=C1 | InChI=1S/C23H24FN3O2.C4H4O4/c24-19-8-6-17(7-9-19)22(28)18-10-14-26(15-11-18)12-3-13-27-16-25-21-5-2-1-4-20(21)23(27)29;5-3(6)1-2-4(7)8/h1-2,4-9,16,18H,3,10-15H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
